*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* Va supply voltage
Vcc 1 0 5.07638677695

* R1
Rs 1 2 1.04944227714k

* R2
Rs 2 3 2.06296295698k

* R3
Rs 2 4 3.07855037163k


