*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* Va supply voltage
Vcc 1 0 5.07638677695

* R1
Rr1 1 2 1.04944227714k

* R2
Rr2 2 3 2.06296295698k

* R3
Rr3 2 4 3.07855037163k

*R4
Rr4 0 4 4.04814283444k

.model JORGE 

echo all
print r3


quit
.endc

.end
